US07754737B2
To a stirred mixture of (S)-2-(trimethylsilyl)ethyl 2-amino-3-cyclohexylpropylcarbamate (4.61 g, 15.4 mmol), dioxane (50 mL) and 10% aq K2CO3 (50 mL) was added solid Boc2O (3.50 g, 15.4 mmol). The mixture was stirred at rt for 18 h. Dioxane was removed on the rotary evaporator and the aqueous residue was extracted with ether (175 mL). The ether layer was washed with 5% aq HCl (50 mL), satd aq NaHCO3 (50 mL) and brine (50 mL) and dried over MgSO4. Removal of the solvent afforded (S)-tert-butyl 1-(2-(trimethylsilyl)ethoxycarbonyl-amino)-3-cyclohexylpropan-2-ylcarbamate (6.55 g, quant) as a yellow oil.

reactant | (S)-2-(trimethylsilyl)ethyl 2-amino-3-cyclohexylpropylcarbamate | 15.4 mmol, 4.61 g | N[C@H](CNC(OCC[Si](C)(C)C)=O)CC1CCCCC1 | C15H32N2O2Si
reactant | K2CO3 | 50 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | Boc2O | 15.4 mmol, 3.50 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 1-(2-(trimethylsilyl)ethoxycarbonyl-amino)-3-cyclohexylpropan-2-ylcarbamate | 6.55 g | C[Si](CCOC(=O)NC[C@H](CC1CCCCC1)NC(OC(C)(C)C)=O)(C)C | C20H40N2O4Si
